US09169261B2
To a solution of 1-phenyl-1H-1,2,4-triazole-3-carboxylic acid (0.093 g, 0.49 mmol, 1.4 eq) and (S)-1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-amine (0.10 g, 0.36 mmol, 1 eq) in 1 mL of DMSO was added triethylamine (0.20 mL, 1.4 mmol, 2.6 eq) and HATU (0.21 g, 0.55 mmol, 1.5 eq). After stirring for 1 h at room temperature, the mixture was concentrated and purified by HPLC to afford (S)-1-phenyl-N-(1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-yl)-1H-1,2,4-triazole-3-carboxamide (0.095 g, 0.25 mmol, 52%). 1H NMR (400 MHz, CD3OD) δ 9.13 (s, 1 H), 8.16 (d, J=2.4 Hz, 1 H), 8.09 (d, J=5.8 Hz, 1 H), 7.86 (d, J=7.8 Hz, 2 H), 7.60-7.46 (m, 4 H), 7.19 (d, J=5.5 Hz, 1 H), 4.95-4.80 (m, 1 H), 4.78-3.80 (br, 4 H), 2.62-2.40 (m, 2 H); MS: (ES) m/z calculated for C19H18N8O [M+H]+ 375.2, found 375.

reactant | 1-phenyl-1H-1,2,4-triazole-3-carboxylic acid | 0.49 mmol, 0.093 g, 1.4 eq | C1(=CC=CC=C1)N1N=C(N=C1)C(=O)O | C9H7N3O2
reactant | (S)-1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-amine | 0.36 mmol, 0.10 g, 1 eq | N1=CC=C2N1C=CN=C2N2C[C@H](CC2)N | C10H13N5
reactant | triethylamine | 1.4 mmol, 0.20 mL, 2.6 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.55 mmol, 0.21 g, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)-1-phenyl-N-(1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-yl)-1H-1,2,4-triazole-3-carboxamide | 0.25 mmol, 0.095 g, 52% | C1(=CC=CC=C1)N1N=C(N=C1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)N=CC2 | C19H18N8O
